US07388061B2
To 4.5 g (0.02 mol) 9,9-di(hydroxymethyl)fluorene were added 30 ml tetrahydrofuran, and added 3.3 ml (0.03 mol) pyridine with stirring. To the resulting homogenous mixture was added slowly 2.3 ml (0.02 mol) benzoyl chloride, and the mixture was stirred at temperature for 1 hour, then heated refluxing for 5 hours. Next, the mixture was cooled to room temperature, and 20 ml tetrahydrofuran and 3.3 ml(0.03 mol) pyridine were added with stirring. To the resulting homogenous mixture was slowly added 1.8 ml (0.02 mol) propionyl chloride, and the mixture was stirred at room temperature for 1 hour, and heated refluxing for 5 hours. Then 30 ml water was added to dissolve the resulting salt. The mixture was extracted with toluene. The organic phase was separated, washed with saturated saline for two times, and dried over anhydrous sodium sulfate. The solvent was removed. Recrystallization from ethyl acetate gave 9-(benzoyloxymethyl)-9-(propionyloxymethyl)fluorene as a white crystal, and the yield was 79%. 1HNMR: δ (ppm) 1.23(t, 3H, CH3), 2.39(m, 2H, CH2), 4.48(s, 2H, COOCH2), 4.62(s, 2H, OCH2 linking with benzoyl), 7.33-8.03(m, 13H, ArH)

reactant | 9,9-di(hydroxymethyl)fluorene | 0.02 mol, 4.5 g | OCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C15H14O2
reactant | pyridine | 0.03 mol, 3.3 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.02 mol, 2.3 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 0.03 mol, 3.3 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 0.02 mol, 1.8 ml | C(CC)(=O)Cl | C3H5ClO
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 9-(benzoyloxymethyl)-9-(propionyloxymethyl)fluorene | yield was 79% | C(C1=CC=CC=C1)(=O)OCC1(C2=CC=CC=C2C=2C=CC=CC12)COC(CC)=O | C25H22O4
